US04319913
The procedure of Example 1 was employed utilizing N-(3-methylphenyl)-N-benzylamine and isopropyl phosphonic dichloride. The crude product produced as a result of the chromatographic separation was distilled at 150° C. and 0.8 mm to yield a pale yellow glass. The yellow glass was crystallized from methylcyclohexane to yield 1-isopropyl-2-(3-methylphenyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (3.5 g, 20% yield) as a white crystalline solid having a melting point of 112°-113° C. and the following analysis:

reactant | N-(3-methylphenyl)-N-benzylamine | CC=1C=C(C=CC1)NCC1=CC=CC=C1 | C14H15N
reactant | isopropyl phosphonic dichloride | C(C)(C)P(=O)(Cl)Cl | C3H7Cl2OP
product | 1-isopropyl-2-(3-methylphenyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 3.5 g, 20% yield | C(C)(C)P1(N(CC2=C1C=CC=C2)C2=CC(=CC=C2)C)=O | C17H20NOP
